US05112988
A solution of methyl [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetate (3.5 g) in ethanol (50 cc) is treated with normal sodium hydroxide solution (15 cc) at 80° C. for 4 hours. The reaction mixture is concentrated under reduced pressure (2.7 kPa). The residue is taken up with water (100 cc) and the solution, acidified to pH 1 with 4N hydrochloric acid, is extracted with ethyl acetate (2×100 cc). The combined organic phases are dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) to give [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetic acid (2.85 g) in the form of a white solid.

reactant | methyl [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetate | 3.5 g | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC=C1)CC(=O)OC | C15H21NO4
reactant | sodium hydroxide | 15 cc | [OH-].[Na+]
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | [2-(N-tert-butoxycarbonyl-N-methylamino)phenyl]acetic acid | 2.85 g | C(C)(C)(C)OC(=O)N(C)C1=C(C=CC=C1)CC(=O)O | C14H19NO4
